US06300368B1
N-isopropyl-[2-(2,6-dimethyl-4-nitrophenoxy)]ethylamine (5.5 g) solution in methanol (70 ml) was subjected to hydrogenation reaction with 10% palladium carbon catalyst at ambient pressure. After completion of hydrogenation reaction, catalyst was removed by filtration. Filtrate was concentrated to obtain 4-[2-(isopropylamino) ethoxy]3,5-dimethylaniline (4.80 g) as pale brownish oil.

reactant | N-isopropyl-[2-(2,6-dimethyl-4-nitrophenoxy)]ethylamine | 5.5 g | C(C)(C)NCCOC1=C(C=C(C=C1C)[N+](=O)[O-])C | C13H20N2O3
solvent | methanol | 70 ml | CO | CH4O
catalyst | palladium carbon | [C].[Pd]
product | 4-[2-(isopropylamino) ethoxy]3,5-dimethylaniline | 4.80 g | C(C)(C)NCCOC1=C(C=C(N)C=C1C)C | C13H22N2O
